US05026886
EXAMPLE 2: The Preparation of 2,2'-Dimethyl-1,1'-Biphenyl Employing Aryl Grignards
To a suspension of magnesium turnings (12.15 grams, 0.5 mole) in THF (150 mL) was added 2-chlorotoluene (50.6 grams, 0.40 mole). The mixture was refluxed for 18 hours, cooled to ambient and added dropwise to a solution of 2-chlorotoluene (44.3 grams, 0.35 mole) and bis(triphenylphosphine)-nickel (II) dichloride (2.0 grams) in THF (250 mL). The reaction mixture warmed upon mixing and was heated to reflux for 4 hours after completion of the addition. The reaction mixture was cooled and quenched by the addition of toluene (400 mL) and a saturated ammonium chloride solution (200 mL). The layers were separated and the organic phase was washed sequentially with 10 percent HCl (200 mL), water (3×100 mL), and then stripped under nitrogen to give a thick oil. The oil was distilled under vacuum to give the product as a fraction boiling in the range of 85° to 90° C. at 1 mm Hg. The yield was 43.40 grams (68 percent of theory) of 2,2'-dimethyl-1,1'-biphenyls containing 93 percent of the 2,2'-isomer and 3.5 percent of other isomers.

reactant | magnesium | 0.5 mole, 12.15 grams | [Mg] | Mg
reactant | 2-chlorotoluene | 0.40 mole, 50.6 grams | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | 2-chlorotoluene | 0.35 mole, 44.3 grams | ClC1=C(C=CC=C1)C | C7H7Cl
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)-nickel (II) dichloride | 2.0 grams | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,2'-Dimethyl-1,1'-Biphenyl | CC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14
